US04859684
(a-4) To a cooled and stirred solution of 13 parts of N-[4-[1-(1H-imidazol-1-yl)ethyl]phenyl]formamide in 92 parts of concentrated sulfuric acid was added portionwise 6.1 parts of potassium nitrate at a temperature between -5° to -10° C. Upon completion, stirring was continued for 1.50 hour at 0° C. The reaction mixture was poured into crushed ice. The whole was treated with ammonium hydroxide at 0°~-10° C. The product was extracted three times with 195 parts of dichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from 48 parts of 2-propanol. The product was filtered off and dried, yielding 5.4 parts (34.6%) of N-[4-[1-(1H-imidazol-1-yl)-ethyl]-2-nitrophenyl]formamide; mp. 158° C. (int. 116).

reactant | N-[4-[1-(1H-imidazol-1-yl)ethyl]phenyl]formamide | N1(C=NC=C1)C(C)C1=CC=C(C=C1)NC=O | C12H13N3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | [N+](=O)([O-])[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-[1-(1H-imidazol-1-yl)-ethyl]-2-nitrophenyl]formamide | 34.6% | N1(C=NC=C1)C(C)C1=CC(=C(C=C1)NC=O)[N+](=O)[O-] | C12H12N4O3
